US04997925
De-blocking: 5'-deoxy-5',5'-difluoroadenosine
To 700 mg (1.5 mmol) of N6 -benzoyl-5'-deoxy-5',5'-difluoro-3'-O-acetyladenosine in 20 ml of ethanol in a Carius tube add gaseous ammonia while cooling in ice. Seal the tube and allow it to stand overnight. Open the tube and evaporate the solvent. Chromatograph the product on flash silica gel, (ethyl acetate/methanol) to give the title compound.

reactant | N6 -benzoyl-5'-deoxy-5',5'-difluoro-3'-O-acetyladenosine | 1.5 mmol, 700 mg | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3[C@H](O)[C@H](OC(C)=O)[C@@H](C(F)F)O3)C2N=CN1 | C19H17F2N5O5
reactant | ammonia | N | H3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5'-deoxy-5',5'-difluoroadenosine | FC([C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O)F | C10H11F2N5O3
